US04689182
To a solution of 4-(aminomethyl)benzonitrile (5.0 g, 0.038 moles) in 100 mL chloroform is added 3.82 g (0.038 moles) triethylamine. A solution of nonanoyl chloride (6.68 g, 0.038 moles) in 10 mL chloroform is then added dropwise with stirring over a 10 min period and the final mixture stirred at room temperature for 18 hrs. The mixture is extracted with water (100 mL), saturated NaHCO3 (50 mL), 2N HCl (50 mL), dried over Na2SO4 and evaporated to leave 10.2 g crude N-(4-cyanobenzyl)nonanamide. This crude product is taken up in 50 mL dimethylformamide, to which is added 2.47 g (0.038 moles) sodium azide and 2.03 g (0.038 moles) ammonium chloride. The final mixture is heated at 90°-110° C. for 4 hrs. after cooling, the mixture is diluted with water (350 mL) and the resultant precipitate recovered by suction filtration, washed with water, and vacuum dried. Recrystallization from ethyl acetate left N-[[4-(1H-tetrazol-5-yl)phenyl]methyl]nonanamide (2.6 g), m.p. 185°-187° C.

reactant | 4-(aminomethyl)benzonitrile | 0.038 moles, 5.0 g | NCC1=CC=C(C#N)C=C1 | C8H8N2
reactant | triethylamine | 0.038 moles, 3.82 g | C(C)N(CC)CC | C6H15N
reactant | nonanoyl chloride | 0.038 moles, 6.68 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(4-cyanobenzyl)nonanamide | 10.2 g | C(#N)C1=CC=C(CNC(CCCCCCCC)=O)C=C1 | C17H24N2O
